US05268443
A solution of 3-phenyl-4-ethoxybenzoic acid (26.6 g, 0.110 mole) and 550 ml of acetic acid was added to a one-liter, three-necked, round-bottom flask equipped with a 250 ml pressure equalizing dropping funnel, thermometer, cold water condenser, nitrogen inlet adapter and a polytetrafluoroethylene-coated magnetic stir bar. The flask was purged with nitrogen and the solution was brought to reflux. Approximately 125 ml of a 48 weight percent solution of HBr was added dropwise over fifteen minutes to the refluxing solution. The solution was refluxed for 30 hours. Without cooling, the solvent was rotary evaporated off leaving a slurry of a pinkish solid. The slurry was poured into one liter of deionized water and the mixture was stirred for one hour and filtered. The filter cake was dried in an 80° C. vacuum oven for three hours yielding 3-phenyl-4-hydroxybenzoic acid.

reactant | 3-phenyl-4-ethoxybenzoic acid | 0.110 mole, 26.6 g | C1(=CC=CC=C1)C=1C=C(C(=O)O)C=CC1OCC | C15H14O3
reactant | acetic acid | 550 ml | C(C)(=O)O | C2H4O2
solvent | water | one liter | O | H2O
product | 3-phenyl-4-hydroxybenzoic acid | C1(=CC=CC=C1)C=1C=C(C(=O)O)C=CC1O | C13H10O3
